US09193744B2
NBS (0.110 g, 0.618 mmol) was added in one portion to a solution of (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (11, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.248 g, 0.555 mmol) and CCl4 (9.5 mL) under a nitrogen atmosphere. AIBN (0.009 g, 0.055 mmol) was added in one portion. The reaction vessel was evacuated and back-filled with nitrogen three times then the solution was warmed to reflux. After 2 h, the solution was cooled to rt. NBS (0.020 g, 0.11 mmol) and AIBN (0.001 g, 0.006 mmol) were added sequentially. The reaction vessel was evacuated and back-filled with nitrogen three times then the solution was warmed to reflux. After 45 min, the mixture was allowed to cool to rt. 75% Sat. aq. NaHCO3 (20 mL), water (5 mL), and DCM (25 mL) were added. The layers were separated and the aqueous layer was extracted with DCM (25 mL). The combined organics were dried over Na2SO4, filtered, and concentrated. The residue was purified on silica gel (40 g) using a gradient of 0-20% EtOAc in heptane. The fractions containing product were combined and concentrated under reduced pressure to afford (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (60, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0671 g, 27% yield). LC/MS, method 3, Rt=2.83 min, MS m/z 445 (M+H)+. Borane tetrahydrofuran complex (1 M solution in THF, 0.750 mL, 0.750 mmol) was added dropwise to a solution of (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (60, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0671 g, 0.151 mmol) and THF (1.5 mL) under a nitrogen atmosphere at about 0° C. After about 15 min, the ice bath was removed and the solution was left to stir at rt for about 18 h. The reaction was cooled to about 0° C. NaOH (3.8 M aq. solution, 0.800 mL, 3.04 mmol) was added dropwise over about 5 min). H2O2 (30% aq. solution, 0.770 mL, 7.54 mmol) was added dropwise over about 5 min. After about 15 min, the ice bath was removed and the mixture was stirred at rt for about 2 h. The mixture was warmed to about 40° C. After about 1 h, the mixture was allowed to cool to rt. Water (10 mL), EtOAc (10 mL) and MeOH (1 mL) were added. The layers were separated and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organics were washed with sat. aq. NaCl (5 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified on silica gel (40 g) using a gradient of 0-30% EtOAc in heptane. The fractions containing each product were combined and concentrated under reduced pressure. The first eluting band afforded (3R,4aR,7R,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol (62, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0061 g, 9% yield). LC/MS, method 2, Rt=2.44 min, MS m/z 463 (M+H)+. The second eluting band afforded (3R,4aR,7 S,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol (61, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.024 g, 35% yield) of an ivory solid. LC/MS, method 3, Rt=2.36 min, MS m/z 463 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.27-8.25 (m, 1H), 8.20 (s, 1H), 7.84 (s, 1H), 7.81-7.72 (m, 2H), 7.50-7.41 (m, 2H), 5.87 (s, 1H), 5.47 (d, J=6.28 Hz, 1H), 5.12-5.03 (m, 1H), 2.19-1.37 (m, 13H), 0.42 (t, J=7.2 Hz, 3H).

reactant | Borane tetrahydrofuran | 0.750 mmol, 1 M, 0.750 mL | O1CCCC1.B
reactant | (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@@]12[C@H](CC=CC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@@](CC2)(O)C(F)(F)F | C25H24F4N2O
reactant | NaOH | 3.04 mmol, 3.8 M, 0.800 mL | [OH-].[Na+]
reactant | H2O2 | 7.54 mmol, 0.770 mL | OO | H2O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (3R,4aR,7R,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol | 9% yield | C(C)[C@@]12[C@H](CC[C@H](C=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)O)C[C@@](CC2)(O)C(F)(F)F | C25H26F4N2O2
